US07297798B2
Preferably, the reaction of 2-chloro-5-chloromethyl pyridine with 2-nitroiminoimidazolidine is carried out at 50° C., so as to obtain good yields of imidacloprid.

reactant | 2-chloro-5-chloromethyl pyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-nitroiminoimidazolidine | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
product | imidacloprid | C1=CC(=NC=C1CN\2CCN/C2=N\[N+](=O)[O-])Cl | C9H10ClN5O2
